US08710086B2
Preparation of 2-(4-(tert-butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoic acid
The title compound was prepared according to General Method 7. N-tert-butyl-4-bromo-2-fluorobenzamide (850 mg, 3.1 mmol), 2-aminoisobutyric acid (450 mg, 4.36 mmol), CuI (100 mg, 0.5 mmol), TEA (0.2 mL) and K2CO3 (1.0 g, 7.2 mmol) were charged in DMF (8 ml) and water (2 ml) and stirred at RT for 5 min. 2-acetylcyclohexanone (100 mg, 0.7 mmol) was added and the reaction mixture was heated at 100° C. for 18 h. The reaction mixture was acidified with 1 M citric acid (pH 4) and extracted with ethyl acetate (50 mL, 2 times). The combined organic layer was dried over Na2SO4 and concentrated to obtain 1.0 g of 2-(4-(tert-butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoic acid.

reactant | N-tert-butyl-4-bromo-2-fluorobenzamide | 3.1 mmol, 850 mg | C(C)(C)(C)NC(C1=C(C=C(C=C1)Br)F)=O | C11H13BrFNO
reactant | 2-aminoisobutyric acid | 4.36 mmol, 450 mg | NC(C(=O)O)(C)C | C4H9NO2
reactant | K2CO3 | 7.2 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-acetylcyclohexanone | 0.7 mmol, 100 mg | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | citric acid | 1 M, pH 4 | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 0.5 mmol, 100 mg | [Cu]I
solvent | water | 2 ml | O | H2O
product | 2-(4-(tert-butylcarbamoyl)-3-fluorophenylamino)-2-methylpropanoic acid | 1.0 g | C(C)(C)(C)NC(=O)C1=C(C=C(C=C1)NC(C(=O)O)(C)C)F | C15H21FN2O3
